US09315521B2
A mixture of 5-(chloromethyl)-4-methyl-1-(propan-2-yl)-1H-imidazole hydrochloride (824 g, 3.9 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (970 mg, 7.0 mmol), and potassium carbonate (1.2 g, 9.0 mmol) in acetone (30 mL) was stirred at room temperature for 2 days. The solid material was removed by filtration. The filtrate was recovered and evaporated. The crude product was purified by flash chromatography (0-8% MeOH/DCM), affording 6-methyl-2-({[4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methyl}-sulfanyl)pyrimidin-4-ol (215 mg, 28% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.36 (d, 3H, J=6.7 Hz), 2.09 (s, 3H), 2.19 (s, 3H), 4.31 (m, 1H), 4.45 (s, 2H), 6.00 (s, 1H), 7.66 (s, 1H); M+279. The product was used without further purification.

reactant | 5-(chloromethyl)-4-methyl-1-(propan-2-yl)-1H-imidazole hydrochloride | 3.9 mmol, 824 g | Cl.ClCC1=C(N=CN1C(C)C)C
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 7.0 mmol, 970 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 9.0 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 6-methyl-2-({[4-methyl-1-(propan-2-yl)-1H-imidazol-5-yl]methyl}-sulfanyl)pyrimidin-4-ol | 215 mg, 28% yield | CC1=CC(=NC(=N1)SCC1=C(N=CN1C(C)C)C)O | C13H18N4OS
